US09085555B2
To a vigorously stirred solution of 7-bromo-5-methyl-1H-pyrazolo[3,4-c]pyridine (3.65 g, 14.6 mmol) and Pd(PPh3)4 (845 mg, 0.73 mmol) in THF (65 mL) was added trimethylaluminum (14.6 mL, 29.3 mmol; 2 M sol. in toluene) under argon. The reaction mixture was stirred at 65° C. for 60 h, and then was cooled to RT and poured into a sat. aq. NH4Cl solution. The resulting suspension was filtered, the solid was washed with water and discarded. The filtrate and the combined washings were extracted with EtOAc (3×). The combined organics were washed with brine, then dried (Phase separator) and concentrated under reduced pressure to give 5,7-dimethyl-1H-pyrazolo[3,4-c]pyridine as a solid. MS (LC-MS): 148 [M+H]+, tR (HPLC conditions k): 0.50 min.

reactant | 7-bromo-5-methyl-1H-pyrazolo[3,4-c]pyridine | 14.6 mmol, 3.65 g | BrC=1N=C(C=C2C1NN=C2)C | C7H6BrN3
reactant | trimethylaluminum | 29.3 mmol, 2 M, 14.6 mL | C[Al](C)C
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 65 mL | C1CCOC1 | C4H8O
catalyst | Pd(PPh3)4 | 0.73 mmol, 845 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5,7-dimethyl-1H-pyrazolo[3,4-c]pyridine | CC=1C=C2C(=C(N1)C)NN=C2 | C8H9N3
